US08030500B2
5-(3-(3-Amino-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-1-yl) phenyl)nicotinonitrile acetate
The title compound was synthesized as described for example 27 in 52% yield, starting from 1-(3-bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine (100 mg, 0.24 mmol) and 3-cyanopyridine-5-boronic acid pinacol ester (58.6 mg, 0.25 mmol). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.06 (d, 1 H) 9.00 (d, 1 H) 8.56 (s, 1 H) 8.04 (d, 1 H) 7.79 (d, 1 H) 7.63-7.73 (m, 2 H) 7.51-7.60 (m, 1 H) 7.41-7.51 (m, 2 H) 7.28 (t, 1 H) 6.90 (d, 1 H) 6.64 (s, 1 H) 3.78 (s, 3 H) 1.89 (s, 3 H); MS (ES+) m/z 436 [M+H]+.

reactant | 1-(3-bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine | 0.24 mmol, 100 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)OC | C20H15BrFN3O
reactant | 3-cyanopyridine-5-boronic acid pinacol ester | 0.25 mmol, 58.6 mg | C(#N)C=1C=NC=C(C1)B1OC(C)(C)C(C)(C)O1 | C12H15BN2O2
product | 5-(3-(3-Amino-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-1-yl) phenyl)nicotinonitrile acetate | 52% yield | C(C)(=O)O.NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=NC=C1)OC)C=1C=C(C=CC1)C=1C=NC=C(C#N)C1 | InChI=1S/C26H18FN5O.C2H4O2/c1-33-23-12-20(8-9-31-23)26(21-6-3-7-22(27)24(21)25(29)32-26)19-5-2-4-17(11-19)18-10-16(13-28)14-30-15-18;1-2(3)4/h2-12,14-15H,1H3,(H2,29,32);1H3,(H,3,4)
